US08232294B2
Step 2) (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate
To a solution of (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(N-benzyloxycarbonyl-N-methylamino)acetate (1.0 g, 1.4 mmol) in MeOH (100 mL) was added catalytic amount wet Pd/C (10%, ˜55% w/w water content, 10 mg) under N2 atmosphere. The suspension was degassed under vacuum and then purged with H2. The reaction mixture was stirred at rt for 20 minutes under H2 balloon. The mixture was filtered and the residue was washed with MeOH (35 mL×3). The filtrate used for the next step immediately.

reactant | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(N-benzyloxycarbonyl-N-methylamino)acetate | 1.4 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)=O)C1=CC=CC=C1)C | C40H38N6O8
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate | CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)=O)C1=CC=CC=C1)C | C32H32N6O6
